US06048880
2,5-Di(4-pyridyl)-4-methylthiophene-3-carbaldehyde oxime dihydrochloride
A mixture of 2,5-di(4-pyridyl)-4-methylthiophene-3-carbaldehyde (0.14 g), hydroxylamine hydrochloride (0.04 g), and pyridine (0.04 mL) in MeOH (3 mL) was heated at reflux temperature for 16 hours. After cooling, the volatiles were removed by evaporation. The resulting residue was dissolved in 10% methanolic HCl (5 mL) and the solution was concentrated in vacuo again . The resulting solid was washed with water (50 mL) and CH2Cl2 (30 mL) to provide the title compound (0.045 g).

reactant | 2,5-di(4-pyridyl)-4-methylthiophene-3-carbaldehyde | 0.14 g | N1=CC=C(C=C1)C=1SC(=C(C1C=O)C)C1=CC=NC=C1 | C16H12N2OS
reactant | hydroxylamine hydrochloride | 0.04 g | Cl.NO
reactant | pyridine | 0.04 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 3 mL | CO | CH4O
product | 2,5-Di(4-pyridyl)-4-methylthiophene-3-carbaldehyde oxime dihydrochloride | 0.045 g | Cl.Cl.N1=CC=C(C=C1)C=1SC(=C(C1C=NO)C)C1=CC=NC=C1 | InChI=1S/C16H13N3OS.2ClH/c1-11-14(10-19-20)16(13-4-8-18-9-5-13)21-15(11)12-2-6-17-7-3-12;;/h2-10,20H,1H3;2*1H
